US04009187
C. 8-(5-acetoxymethyl-2-furyl)-octanoic acid methyl ester
8.22 g of 8-(5-formyl-2-furyl)-octanoic acid methyl ester were dissolved in 100 ml of absolute ethanol, whereupon the solution was cooled to 10° C. 5.0 g. of sodium borohydride (98%) in 100 ml of ethanol were added in one portion while stirring. After 1.5 hours, 10 ml of methanol were added and the solution poured into 150 ml of water. 50 g of potassium carbonate were then added, the temperature being kept below 18° C. The solution was then extracted several times with ether while adding further quantities of potassium carbonate. After drying, the ether was driven off. 10 ml of pyridine were then added to the product, after which the mixture was again dried. The residue was dissolved in 65 ml of pyridine, after which 65 ml of acetic anhydride were added. The mixture was allowed to stand overnight and was then distilled under vacuum. A product having a boiling point of 148°-149° C at 0.2 mm Hg was obtained.

reactant | 8-(5-formyl-2-furyl)-octanoic acid methyl ester | 8.22 g | COC(CCCCCCCC=1OC(=CC1)C=O)=O | C14H20O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 8-(5-acetoxymethyl-2-furyl)-octanoic acid methyl ester | COC(CCCCCCCC=1OC(=CC1)COC(C)=O)=O | C16H24O5
